US05977110
4-Nitrophenyl acetic acid (70 g, 0.386 mol) was treated in 1 liter of 0.35 M NaOH with 40 g Raney nickel catalyst at 3000 pounds per square inch (psi) of hydrogen pressure for 173 hours. The mixture was cooled, the catalyst was filtered, and the filtrate was concentrated to a volume of 600 mL and treated with 90 g (0.412 mol) di-tert-butyl dicarbonate in THF (1400 mL) for 16 hours at room temperature. THF was removed by concentration, and the pH was adjusted to 11 with 2N NaOH. Neutral material was extracted with Et2O, and the aqueous phase was treated with potassium bisulfate (KHSO4) to bring the pH to 4. A white precipitate formed and was filtered off, washed with water, and dried. Recrystallization from ethyl acetate yielded the pure trans-(4-tert-butoxycarbonylaminocyclohexyl)-acetic acid, 42 g (42%); mp 161-163° C.

reactant | 4-Nitrophenyl acetic acid | 0.386 mol, 70 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | hydrogen | [H][H] | H2
reactant | di-tert-butyl dicarbonate | 0.412 mol, 90 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 0.35 M, 1 liter | [OH-].[Na+]
catalyst | Raney nickel | 40 g | [Ni] | Ni
solvent | THF | 1400 mL | C1CCOC1 | C4H8O
product | trans-(4-tert-butoxycarbonylaminocyclohexyl)-acetic acid | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)CC(=O)O | C13H23NO4
